US04528288
A mixture of 14.5 g (85 mmole) of 5-chloro-7-methyltriazolo[1,5-c]pyrimidine and 15 g (200 mmole) of thiourea in 100 ml of methanol was heated at reflux for one hour, and then cooled to 0° C. The product was collected by filtration and recrystallized from a 50:50 mixture of ethanol and hexanes with treatment with decolorizing charcoal to provide 7-methyltriazolo[1,5-c]pyrimidine-5-thiol. The structural assignment was confirmed by nuclear magnetic resonance spectral analysis.

reactant | 5-chloro-7-methyltriazolo[1,5-c]pyrimidine | 85 mmole, 14.5 g | ClC1=CC=2N(C(=N1)C)N=NC2 | C6H5ClN4
reactant | thiourea | 200 mmole, 15 g | NC(=S)N | CH4N2S
solvent | methanol | 100 ml | CO | CH4O
product | 7-methyltriazolo[1,5-c]pyrimidine-5-thiol | CC1=NC(=CC=2N1N=NC2)S | C6H6N4S
